US06255496B1
4-[4-[2-(N-Dodecyl-N-Hexylamino]ethoxy]phenyl]-1,1,1-trifluoro-2-butanone
N-Hexyl-N-[2-[4-(3,3-dimethoxy-4,4,4-trifluorobut-1-yl)phenoxy]ethyl]dodecylamine (353 mg, 0.63 mmol) was treated with trifluoroacetic acid as described in the preparation of 4-[N-dodecyl-N-[2-[4-(4,4,4-trifluoro-3-oxobut-1-yl)phenoxy]ethyl]amino]butanoic acid, ethyl ester. The residue was chromatographed on silica gel (dichloromethane/methanol 98:2 to 94:6) to afford the title compound (253 mg, 78%) as a pale yellow oil

reactant | N-Hexyl-N-[2-[4-(3,3-dimethoxy-4,4,4-trifluorobut-1-yl)phenoxy]ethyl]dodecylamine | 0.63 mmol, 353 mg | C(CCCCC)N(CCOC1=CC=C(C=C1)CCC(C(F)(F)F)(OC)OC)CCCCCCCCCCCC | C32H56F3NO3
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-[N-dodecyl-N-[2-[4-(4,4,4-trifluoro-3-oxobut-1-yl)phenoxy]ethyl]amino]butanoic acid, ethyl ester | C(CCCCCCCCCCC)N(CCOC1=CC=C(C=C1)CCC(C(F)(F)F)=O)CCCC(=O)OCC | C30H48F3NO4
product | 4-[4-[2-(N-Dodecyl-N-Hexylamino]ethoxy]phenyl]-1,1,1-trifluoro-2-butanone | 253 mg, 78% | C(CCCCCCCCCCC)N(CCCCCC)CCOC1=CC=C(C=C1)CCC(C(F)(F)F)=O | C30H50F3NO2
